Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
1. Left lower extremity critical limb ischemia
2. L ___ toe infection
 
Major Surgical or Invasive Procedure:
___ Diagnostic Angiogram: patent graft with runoff into DP
___ Left ___ toe amputation

 
History of Present Illness:
This ___ year old woman with Diabetes Type I has an extensive
history of PVD that includes left and right bypass surgeries, as
well as multiple percutaneous procedures to both legs and a
bypass revision to the right leg and ultimately a right below 
the
knee amputation in ___. She subsequently had an infection
in the BKA stump and had multiple debridements done in ___. She also had difficulty with her first prosthesis because
it did not fit correctly. She recently got a new right lower
extremity prosthesis and has been doing more walking.  Last 
week,
she discovered a new ulcer to her left fourth and fifth toes. 
She
denies any left lower extremity claudicatoin symptoms. She was
seen by Dr. ___ in the office on ___. She had a left
lower extremity arterial duplex which revealed a patent left
fem/pop bypass without stenosis. There was dampening at the
metatarsal level consistent with tibial outflow disease.
Given the patient’s history of right BKA, she is extremely
concerned about the ulcer on her left leg. She has been referred
now for left lower extremity angiography to confirm that she has
adequate blood flow to heal the ulceration on her left foot. 

Of note, she reports a small open area, approximately ½ inch 
wide
to her right bka incision site from her initial prosthesis that
was not fitting correctly. This has not healed over the past
several weeks. 

From a cardiac standpoint, she denies any chest pain or dyspnea. 


 
Past Medical History:
___ s/p right below the knee amputation
___ s/p transmetatarsal amputation of right foot
___ right ileofemoral bypass with 8mm ringed PTFE, s/p
subsequent revision
Multiple right and left lower extremity percutaneous
interventions/stents, including left external iliac stenting
___, pta ___, right external iliac, common femoral and 
porfunda
femoris thromboendarterectomy, Dacron patch angioplasty ___ s/p Left femoral popliteal bypass, left great toe 
amputation
Lacunar infarts x 2
hypercholesterolemia
CAD s/p MI, ___ occluded RCA on angiography
Peripheral neuropathy
CHF, EF 25%
DM type I
DKA ___
Hypothyroidism
Acute renal failure ___ after peripheral angiography
Cervical spondylosis/nerve entrapment s/p c4-C6 discectomy and
fusion as well as L4-L5 laminectomy

 
Social History:
___
Family History:
Father died at age ___ of an MI. 

 
Physical Exam:
General: NAD. A&Ox3.
Pulm: CTAB.
Cardiac: RRR. 
Abd: Soft. NT. ND. No palpable masses.
LLE: No palpable pulse in the graft as the leg is swollen.  The 
ulcer is approximately 1 cm and probes down to the joint space 
and appears ischemic.
 
Pertinent Results:
___ 09:49AM   GLUCOSE-291* K+-5.1
 
Brief Hospital Course:
The patient was admitted through Same Day Surgery and was taken 
to the Angiography suite where she underwent a diagnostic 
angiogram with LLE run-off and a left ___ toe amputation. She 
tolerated the procedure well and after being monitored for a 
brief period in the PACU, was transferred to the floor. On 
postoperative day #1 she was advanced to a regular diabetic diet 
and her pain medication was changed to the oral form. She was 
evaluated by Physical Therapy and it was determined that she 
would be safe to be discharged to home with LLE partial weight 
bearing and a healing ___ to be worn while she ambulates. 
Intraoperative cultures grew Gram positive cocci and rods, as 
well as Gram negative rods. She was started on a 10 day oral 
course of Bactrim and Ciprofloxacin on postoperative day #2. It 
was also noted on postoperative day #2 that the patient was able 
to perform adequate transfers with partial LLE weight bearing, 
her pain was adequately controlled with oral pain medication, 
and she was tolerating a regular diet. She was therefore 
discharged to home on ___ with ___ and directions to follow 
up with Dr. ___ in clinic on ___. 
 
Medications on Admission:
Humalog Insulin pump 
Digoxin 250mcg daily
Lasix 60mg daily
Aspirin 325mg daily
Protonox 40mg daily
Lisinopril 5mg daily
Synthroid ___ daily
Plavix 75 daily
Motrin 800mg q8h PRN 
Lipitor 80mg daily
 
Discharge Medications:
1. Ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours).
Disp:*20 Tablet(s)* Refills:*0*
2. Digoxin 250 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
5. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Levothyroxine 100 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
7. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed.
Disp:*30 Tablet(s)* Refills:*0*
10. Furosemide 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
11. Bactrim DS 160-800 mg Tablet Sig: One (1) Tablet PO twice a 
day for 10 days.
Disp:*20 Tablet(s)* Refills:*0*
12. Humalog Insulin pump

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left foot ___ toe infection  

 
Discharge Condition:
Stable

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight > 3 lbs.
Adhere to 2 gm sodium diet

Wound: Keep your wound clean and dry. Monitor the wound for 
signs of infection, such as redness or foul-smelling drainage. 
There will be some bruising in the area, but if this continues 
to spread or there is significant swelling, then you should 
contact the clinic or report to the Emergency Department. 

Showering/Baths: You may shower tomorrow. You may allow soap and 
water to run over your wound. Pat dry. Keep the wound clean and 
dry after that. Do not take a bath or soak your wound for the 
next 2 weeks. 

Diet: Resume your regular diet. 

Activity: You may resume normal activity as tolerated. 

Pain: You may take Tylenol or Ibuprofen for pain control. You 
may also take prescribed narcotics for pain control if needed. 
As your pain improves, you should take fewer narcotics as time 
goes on. Do not drive while taking narcotics pain medications. 

Medications: Some of your medication doses may have changed or 
new medications may have been started. Please review your list 
of medications to make sure that you are taking the appropriate 
doses.

Please call the clinic or report to the Emergency Department if 
you experience any of the following symptoms: Fevers, chills, 
nausea, vomiting, chest pain, shortness of breath, 
redness/drainage/swelling at the site of your wound that may 
suggest infection, a cold/blue/pulseless extremity, pain in your 
extremity that is not controlled with pain medication, or if you 
have any other concerns or questions. 

 
Followup Instructions:
___